US07696213B2
6-Bromo-4-methyl-2-(methylthio)-8-((tetrahydrofuran-3-yl)methyl)pyrido[2,3-d]pyrimidin-7(8H)-one
To a mixture of 6-bromo-4-methyl-2-(methylthio)pyrido[2,3-d]pyrimidin-7(8H)-one (900 mg, 3.15 mmol) and 3-(bromomethyl)-tetrahydrofuran (571 mg, 3.46 mmol) in DMF was added CsCO3 (1.13 g, 3.46 mmol). After stirred at 70° C. for 7 h and the mixture was quenched with water and extracted with t-butyl ethyl ether (4 times) and concentrated. The crude mixture was purified by flash chromatography, using 0-2% MeOH/CHCl3, to give the title compound (715 mg, 61%).

reactant | 6-bromo-4-methyl-2-(methylthio)pyrido[2,3-d]pyrimidin-7(8H)-one | 3.15 mmol, 900 mg | BrC1=CC2=C(N=C(N=C2C)SC)NC1=O | C9H8BrN3OS
reactant | 3-(bromomethyl)-tetrahydrofuran | 3.46 mmol, 571 mg | BrCC1COCC1 | C5H9BrO
solvent | DMF | CN(C)C=O | C3H7NO
product | 6-Bromo-4-methyl-2-(methylthio)-8-((tetrahydrofuran-3-yl)methyl)pyrido[2,3-d]pyrimidin-7(8H)-one | 715 mg, 61% | BrC1=CC2=C(N=C(N=C2C)SC)N(C1=O)CC1COCC1 | C14H16BrN3O2S
